US07897607B2
7-Acetyl-2-(dipropylamino)-5-mesityl-3-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one
A solution of 2-(dipropylamino)-5-mesityl-3-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one (20 mg, 0.054 mmol) in acetonitrile (1.5 ml) was added sodium hydride (60% in oil, 5 mg, 0.125 mmol) at 0° C. and stirred for 0.5 hour. After stirring at room temperature for 0.5 hour, to the mixture was added a solution of acetylchloride (20 mg, 0.25 mmol) and acetonitrile (0.5 ml) at 0° C. and stirred for 0.5 hour. After stirring at 80° C. for 1 hour, the mixture was diluted with water (20 ml) and extracted with ethyl acetate (20 ml×3). The extracts were combined, washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (10:1) to give 17 mg (77%) of the title compound.

reactant | 2-(dipropylamino)-5-mesityl-3-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 0.054 mmol, 20 mg | C(CC)N(C=1N(C(C2=C(N1)NC=C2C2=C(C=C(C=C2C)C)C)=O)C)CCC | C22H30N4O
reactant | sodium hydride | 0.125 mmol, 5 mg | [H-].[Na+]
reactant | acetylchloride | 0.25 mmol, 20 mg | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
product | 7-Acetyl-2-(dipropylamino)-5-mesityl-3-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 17 mg, 77% | C(C)(=O)N1C=C(C2=C1N=C(N(C2=O)C)N(CCC)CCC)C2=C(C=C(C=C2C)C)C | C24H32N4O2
